US07915424B2
5-(3-Trifluoromethylphenylethynyl)-nicotinonitrile
Add triethylamine (1.93 mL, 13.64 mmol), copper (I) iodide (37.3 mg, 0.190 mmol) and bis(triphenylphosphine)palladium (II) dichloride (120 mg, 0.170 mmol) to a solution of 5-bromonicotinonitrile (624 mg, 3.41 mmol) and 1-ethynyl-3-trifluoromethylbenzene, (prepared essentially as described in PREPARATION 13), (580 mg, 3.41 mmol) in ethyl acetate (3 mL). Stir in a sealed tube at 50° C. for 18 h, concentrate and purify by silica gel chromatography, eluting with 100:0 to 0:100 hexanes:ethyl acetate to give the title compound (400 mg, 43%).

reactant | triethylamine | 13.64 mmol, 1.93 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromonicotinonitrile | 3.41 mmol, 624 mg | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | 1-ethynyl-3-trifluoromethylbenzene | C(#C)C1=CC(=CC=C1)C(F)(F)F | C9H5F3
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.190 mmol, 37.3 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.170 mmol, 120 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 5-(3-Trifluoromethylphenylethynyl)-nicotinonitrile | 400 mg, 43% | FC(C=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1)(F)F | C15H7F3N2
